US07868177B2
To a mixture of 5-(3-(2-(methylthio)pyrimidin-4-yl)pyridin-2-yloxy)pyridin-2-amine (0.170 g, 0.546 mmol) in DCM was added di-2-pyridyl thionocarbonate (0.133 g, 0.573 mmol). The reaction was allowed to stir overnight. After 16 h, the reaction was washed 4× with water, then transferred to a separatory funnel and diluted with DCM. The organic layer was washed with water, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to give 4-(2-(6-isothiocyanatopyridin-3-yloxy)pyridin-3-yl)-2-(methylthio)pyrimidine. MS m/z=354 [M+H]+. Calc'd for C16H11N5OS2: 353.4.

reactant | 5-(3-(2-(methylthio)pyrimidin-4-yl)pyridin-2-yloxy)pyridin-2-amine | 0.546 mmol, 0.170 g | CSC1=NC=CC(=N1)C=1C(=NC=CC1)OC=1C=CC(=NC1)N | C15H13N5OS
reactant | di-2-pyridyl thionocarbonate | 0.573 mmol, 0.133 g | C1=CC=NC(=C1)OC(=S)OC2=CC=CC=N2 | C11H8N2O2S
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 4-(2-(6-isothiocyanatopyridin-3-yloxy)pyridin-3-yl)-2-(methylthio)pyrimidine | N(=C=S)C1=CC=C(C=N1)OC1=NC=CC=C1C1=NC(=NC=C1)SC | C16H11N5OS2
